US06559169B2
6-Fluoro-3-[1-(8-methoxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole
[(2R)-8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl 4-methylbenzenesulfonate (0.30 g, 0.86 mmole), 6-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.60 g, 2.7 mmole) and sodium bicarbonate (0.80 g) were added to a mixture of dimethylformamide/tetrahydrofuran (1:1 v/v, 20 mL) and the reaction mixture was refluxed under nitrogen for 18 hours. The solvent was evaporated and the residue partitioned between 400 mL each of water and methylene chloride. The layers were separated and the methylene chloride solution was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous potassium carbonate and filtered. The filtrate was evaporated in vacuum and the residue crystallized from chloroform containing 3% methanol, giving 0.23 g (68%) of the (S)-enantiomer of the title compound as an off-white solid, m.p. 184-185° C.

reactant | [(2R)-8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl 4-methylbenzenesulfonate | 0.86 mmole, 0.30 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=CC=C2)OC | C17H18O6S
reactant | 6-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 2.7 mmole, 0.60 g | FC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13FN2
reactant | sodium bicarbonate | 0.80 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide tetrahydrofuran | 20 mL | CN(C=O)C.O1CCCC1
product | 6-Fluoro-3-[1-(8-methoxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole | FC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)CC1COC2=C(O1)C(=CC=C2)OC | C23H23FN2O3
